US07211573B2
To a solution of 0.06 g (0.31 mmol) (S)-7-amino-9-methyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in 5 ml tetrahydrofurane were added 0.07 g (0.31 mmol) N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid, 0.04 g (0.31 mmol) 1-hydroxybenzotriazole hydrate, 0.06 g (0.31 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride and 0.1 ml (0.62 mmol) diisopropylethylamine. After stirring at room temperature over night the mixture was added to 1N aqueous hydrochloric acid. Extraction with dichloromethane, followed by washing with saturated aqueous sodium bicarbonate solution and drying with sodium sulfate, and chromatography on silicagel with ethylacetate/heptane yielded 0.05 g (39%) N-((S)-9-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as white solid, MS m/e (%): 410.3 (M+H+, 100).

reactant | (S)-7-amino-9-methyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 0.31 mmol, 0.06 g | N[C@H]1COC2=C(N(C1=O)C)C=CC=C2 | C10H12N2O2
reactant | N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | 0.31 mmol, 0.07 g | FC(CNC(CC(=O)O)=O)(C(F)(F)F)F | C6H6F5NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.31 mmol, 0.04 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride | 0.31 mmol, 0.06 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 0.62 mmol, 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | N-((S)-9-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.05 g, 39% | CN1C([C@H](COC2=C1C=CC=C2)NC(CC(=O)NCC(C(F)(F)F)(F)F)=O)=O | C16H16F5N3O4
